datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([H:10])([H:11])[H:12])([C:3]([O:4][O:5][H:13])[H:14])[H:9])([H:6])([H:7])[H:8],165.603
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][O:15][C:14]([H:16])([H:17])[H:18],40.6005
[O:0][N:1]=[O:2].[O:3][O:4][H:5]>>[O:0]([N:1]=[O:2])[H:5].[O:3][O:4],12.736096
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:25]([C:24]([H:28])([H:29])[H:30])([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])[H:14])([H:12])[H:13],15.2716
[C:0]([C:1]([C:2]([C:3]([O:4][H:13])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:14]([O:15][H:17])[H:16]>>[C:0]([C:1]([C:2]([C:3]([O:4][H:13])([H:12])[H:16])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:14][O:15][H:17],5.8576
[C:0](#[C:1][C:2](=[S:3])[H:5])[H:4].[C:6](=[C:7][C:8](=[S:9])[H:12])([H:10])[H:11]>>[C:0](#[C:1][C:2]=[S:3])[H:4].[H:5][C:7](=[C:6]([H:10])[H:11])[C:8](=[S:9])[H:12],58.827
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[O:14][H:15]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][O:14][H:15],6.635824
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14](=[C:15]=[C:16]([H:18])[H:19])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:14](=[C:15]=[C:16]([H:18])[H:19])[H:17],46.024
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])=[S:4])[H:7])([H:5])[H:6].[C:11]([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[S:4][C:11]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6],20.2924
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7](=[C:8]([C:9](=[C:10]([C:11]([H:19])([H:20])[H:21])[H:18])[H:17])[H:16])[H:15])([H:12])([H:13])[H:14]>>[C:0]1([H:2])([H:3])[C:1]([H:4])([H:5])[C:10]([C:11]([H:19])([H:20])[H:21])([H:18])[C:9]([H:17])=[C:8]([H:16])[C:7]1([C:6]([H:12])([H:13])[H:14])[H:15],108.91
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])([H:4])[C:11]([C:10](=[C:9]([H:13])[H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16],47.5721
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([C:30](=[C:31]([H:35])[H:36])[H:34])([H:32])[H:33]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])([c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])[C:29]([C:30](=[C:31]([H:35])[H:36])[H:34])([H:32])[H:33])([H:15])([H:16])[H:17],61.3793
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:21]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:13][H:21],17.313392
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[S:3][H:9])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[S:3][C:10]([H:11])([H:12])[H:13])([H:4])[H:5].[H:9],71.128
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([C:9]([C:10](=[S:11])[H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]([H:5])([H:6])[H:7])[H:15])([H:3])[H:4].[C:8]([C:9]([C:10](=[S:11])[H:17])[H:16])([H:12])([H:13])[H:14],-15.4808
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([C:16]([H:22])([H:23])[H:24])[C:17]([H:25])([H:26])[H:27])[H:21])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])([C:15]([C:16]([H:22])([H:23])[H:24])[C:17]([H:25])([H:26])[H:27])[H:21])[H:5],37.405
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[C:17]([C:18]([C:19]([C:20]([C:21]([O:22][O:23])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:24])([H:25])[H:26]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:23][O:22][C:21]([C:20]([C:19]([C:18]([C:17]([H:24])([H:25])[H:26])([H:27])[H:28])([H:29])[H:30])([H:31])[H:32])([H:33])[H:34],74.0568
